US07429609B2
2-Iodo-4-methyl-5-nitropyridine
To a solution of 1.0 g of 2-amino-4-methyl-5-nitropyridine in 10 mL of diiodomethane was added 1.8 mL of isopentyl sulfite at room temperature, stirred at this temperature for 30 minutes, and after raising the temperature to 80° C., the solution was stirred for 2 hours. The diiodomethane was evaporated, and the crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:20), to afford 897 mg of the title compound as colorless crystals.

reactant | 2-amino-4-methyl-5-nitropyridine | 1.0 g | NC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H7N3O2
reactant | isopentyl sulfite | 1.8 mL | S(=O)(OCCC(C)C)[O-]
reactant | diiodomethane | 10 mL | ICI | CH2I2
product | 2-Iodo-4-methyl-5-nitropyridine | 897 mg | IC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5IN2O2
